US06602865B1
5-Benzyl-8-methyl-2,3,4,5-tetrahydro-9(8H)-pyridazino[4,5-b][1,5]thiazepinone-1,1-dioxide
A mixture of 0.60 g (1.98 mmol) of 5-benzyl-8-methyl-2,3,4,5-tetrahydro-9(8H)-pyridazino[4,5-b][1,5]thiazepinone-1-oxide, 1.92 ml of glacial acetic acid and 1.2 ml of 30% aqueous hydrogen peroxide are left to stand for a day. The precipitated crystals are filtered, washed acid free with water and dried in an exsiccator. In this way 0.35 g (55%) of the title compound are obtained with a melting point of 288-290° C.

reactant | 5-benzyl-8-methyl-2,3,4,5-tetrahydro-9(8H)-pyridazino[4,5-b][1,5]thiazepinone-1-oxide | 1.98 mmol, 0.60 g | C(C1=CC=CC=C1)C1C2=C(S(CCN1)=O)C(N(N=C2)C)=O | C15H17N3O2S
reactant | hydrogen peroxide | 1.2 ml | OO | H2O2
solvent | acetic acid | 1.92 ml | C(C)(=O)O | C2H4O2
product | 5-Benzyl-8-methyl-2,3,4,5-tetrahydro-9(8H)-pyridazino[4,5-b][1,5]thiazepinone-1,1-dioxide | 0.35 g, 55% | C(C1=CC=CC=C1)C1C2=C(S(CCN1)(=O)=O)C(N(N=C2)C)=O | C15H17N3O3S
